* Alimentazione
VCC 1 0 DC 9.0

* Partitore di bias per la base
RB_TOP 1 2 820k
RB_BOT 2 0 120k

* Transistor NPN (collettore-base-emettitore)
* Q1 nodo_collettore nodo_base nodo_emettitore nome_modello
Q1 1 2 3 Q2N2222 Is=14.34e-15 Bf=255.9 Br=6.092 Vt=0.026

* Resistenza di emettitore
RE 3 0 1M

.input 3
.output 1
